US07964293B2
Into a flask, 2 g of 1,2-bis(3-methoxyphenyl)benzene was put, and allowed to dissolve in 100 ml of dichloromethane under nitrogen atmosphere. In the solution, 3.25 g of iron(III) chloride was added, and the solution was stirred at room temperature for 56.5 hours. Methanol was added to terminate the reaction, and then the solution was washed by water. The organic layer was purified by silica gel column chromatography, and then recrystallized in a toluene/heptane mixed solvent, and thus 1.4 g of 2,7-dimethoxytriphenylene was obtained. Obtained 2,7-dimethoxytriphenylene was converted to 2,7-dihydroxytriphenylene by boron tribromide, and allowed to react with trifluoromethanesulfonyl chloride, and converted to 2,7-bis(trifluoromethanesulfonyloxy)triphenylene. The product was allowed react with bis(pinacolate)diboron, and thus 2,7-bis(4,4,5,5-tetramethyl-1,3,2-dioxaborolanyl)triphenylene was synthesized.

reactant | 1,2-bis(3-methoxyphenyl)benzene | 2 g | COC=1C=C(C=CC1)C1=C(C=CC=C1)C1=CC(=CC=C1)OC | C20H18O2
reactant | Methanol | CO | CH4O
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
catalyst | iron(III) chloride | 3.25 g | [Fe](Cl)(Cl)Cl
product | 2,7-dimethoxytriphenylene | 1.4 g | COC1=CC=2C3=CC=CC=C3C3=CC(=CC=C3C2C=C1)OC | C20H16O2
